US07709472B2
(e) (±)-(1S,5R,6S)-3-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-azabicyclo[3.2.0]heptan-6-amine
To a solution of (±)-2-((1S,5R,6S)-3-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-azabicyclo[3.2.0]hept-6-yl)-1H-isoindole-1,3(2H)-dione (324 mg, 0.73 mmol) in EtOH (36 mL) was added NH2NH2 (0.34 mL, 10.9 mmol) dropwise. After 2 h at 85° C., the solution was concentrated and the residue purified via column chromatography (silica, 2-5% MeOH in DCM (1% NH4OH)) yielding the title compound (31 mg, 13%) as a yellow oil: LC/MS (ES) m/e 317 (M+H)+.

reactant | (±)-2-((1S,5R,6S)-3-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-azabicyclo[3.2.0]hept-6-yl)-1H-isoindole-1,3(2H)-dione | 0.73 mmol, 324 mg | FC=1C=NC2=CC=C(N=C2C1CCN1C[C@H]2C[C@@H]([C@H]2C1)N1C(C2=CC=CC=C2C1=O)=O)OC | C25H23FN4O3
reactant | NH2NH2 | 10.9 mmol, 0.34 mL | NN | H4N2
solvent | EtOH | 36 mL | CCO | C2H6O
product | (±)-(1S,5R,6S)-3-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-azabicyclo[3.2.0]heptan-6-amine | 31 mg, 13% | FC=1C=NC2=CC=C(N=C2C1CCN1C[C@H]2C[C@@H]([C@H]2C1)N)OC | C17H21FN4O
